US07605168B2
(4-Amino-2-ethoxy-phenyl)-[3-(3,4-dimethoxy-phenyl)-pyrrolo[2,3-b]pyridin-1-yl]-methanone 144
[3-(3,4-dimethoxy-phenyl)-pyrrolo[2,3-b]pyridine-1-yl]-(2-ethoxy-4-nitro-phenyl)-methanone, 54, (100 mg, 0.22 mmol) was dissolved in EtOAc (30 mL). A catalytic amount of 10% Pd/C (7 mg) was added and the flask capped with rubber septa. The flask was evacuated and back filled with hydrogen twice. Finally, the reaction was stirred overnight under a hydrogen gas atmosphere (balloon). The reaction mixture was filtered over Celite®, rinsed generously with EtOAc (2×75 mL) and concentrated under reduced pressure to give the titled compound. (56 mg, 60%) MS(ESI) [M+H+]+=418.24

reactant | [3-(3,4-dimethoxy-phenyl)-pyrrolo[2,3-b]pyridine-1-yl]-(2-ethoxy-4-nitro-phenyl)-methanone | COC=1C=C(C=CC1OC)C1=CN(C2=NC=CC=C21)C(=O)C2=C(C=C(C=C2)[N+](=O)[O-])OCC | C24H21N3O6
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 7 mg | [Pd] | Pd
product | (4-Amino-2-ethoxy-phenyl)-[3-(3,4-dimethoxy-phenyl)-pyrrolo[2,3-b]pyridin-1-yl]-methanone | NC1=CC(=C(C=C1)C(=O)N1C=C(C=2C1=NC=CC2)C2=CC(=C(C=C2)OC)OC)OCC | C24H23N3O4
